### ISSUE TITLE
`grind` PANIC: `assertion violation: k != 0 -- We have the normalization rule 'Field.inv_zero'`

### ISSUE THREAD

**Issue by euprunin** [leanprover/lean4#9321]
```lean
import Mathlib
example {z : ℂ} (hz : ‖z‖ < 1) : HasSum (fun n : ℕ ↦ z ^ n / n) (-Complex.log (1 - z)) := by
  convert Complex.hasSum_taylorSeries_log (z := -z) (norm_neg z ▸ hz) using 2 with n
  rcases n.eq_zero_or_pos with rfl | hn
  grind
```

causes

```
PANIC at _private.Lean.Meta.Tactic.Grind.Arith.CommRing.Internalize.0.Lean.Meta.Grind.Arith.CommRing.processInv Lean.Meta.Tactic.Grind.Arith.CommRing.Internalize:79:4: assertion violation: k != 0 -- We have the normalization rule `Field.inv_zero`
```

**Comment by Kha** [comment]
Thanks for the report. If you could find a Mathlib-free minimization, that would be much appreciated!

**Comment by kim-em** [comment]
Minimizes to
```
attribute [local instance] Lean.Grind.Semiring.natCast 

theorem _example.extracted_1 {α : Type} [Lean.Grind.Field α] {z : α} : 
    z / ↑(0 : Nat) = 0 := by grind
```
